// Point Netlist Generated on: Nov  5 16:47:35 2024
// Generated for: spectre
// Design Netlist Generated on: Nov  5 16:47:35 2024
// Design library name: logic_gates
// Design cell name: lab3_nor
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0 vdd!
parameters temperature=50
include "/home/tools/cadence/gpdk/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: logic_gates
// Cell name: lab3_nor
// View name: schematic
NM3 (out in_a 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f ps=520n \
        pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
NM0 (out in_b 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f ps=520n \
        pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM1 (out in_b net1 vdd!) g45p1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM0 (net1 in_a vdd! vdd!) g45p1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
C0 (out 0) capacitor c=10f
V3 (in_b 0) vsource type=pulse val0=0 val1=1.0 period=1u delay=1p \
        rise=100.0p fall=100.0p width=500.0n
V0 (in_a 0) vsource type=pulse val0=0 val1=1.0 period=1u delay=1p \
        rise=100.0p fall=100.0p width=500.0n
V2 (net3 0) vsource dc=0 type=dc
V1 (net2 0) vsource dc=0 type=dc
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=50 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=100u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save in_a in_b out PM0:d C0:1 C0:1 V1:p V1:p PM0:s 
saveOptions options save=allpub
